US08293925B2
LHMDS (1 M solution in THF, 24.3 mL, 24.3 mmol) was added slowly to a cooled (−50° C.) solution of 1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (5 g, 20.24 mmol) in THF (25 mL). The solution was stirred at −50° C. for 5 min then warmed to 0° C. and stirred further for 5 min. After cooling back to −50° C., iodoethane (3.27 mL, 40.48 mmol) was added and the resulting reaction mixture was warmed to room temperature and stirred for 2 h. Saturated aqueous NH4Cl solution (50 mL) was added, and the solution was extracted with EtOAc (3×100 mL). The combined organic layer were washed with water (100 mL), brine (100 mL), dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (SiO2, 20→50% EtOAc/hexanes) to give 1-(2,6-dimethylphenyl)-3-ethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (3.3 g, 59% yield). LC-MS: Rt (retention time): 2.21 min, MS: (ES) m/z 276.1 (M+H+).

reactant | LHMDS | 24.3 mmol, 1 M, 24.3 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 20.24 mmol, 5 g | COC(=O)C1CN(C(C1)=O)C1=C(C=CC=C1C)C | C14H17NO3
reactant | iodoethane | 40.48 mmol, 3.27 mL | ICC | C2H5I
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(2,6-dimethylphenyl)-3-ethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 3.3 g, 59% yield | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)CC | C16H21NO3
